US05266699
An intimate mixture of 46.5 g of N,N-diethyl-N'-acetonyl-m-phenylenediamine and 46.5 g of zinc chloride is heated slowly, in which process it starts to melt from 70° C. upwards and from 115° C. upwards the exothermic reaction has to be controlled by external cooling. After maintaining the temperature of 130° C. for 30 minutes, 250 ml of 1N hydrochloric acid are added dropwise in the course of 20 minutes, in which process the temperature stabilised at approximately 90° C. The brown emulsion is stirred for a further 1.5 hours at this temperature and is then rendered alkaline with 100 ml of concentrated sodium hydroxide solution. Ethyl acetate is added to the resultant suspension and the latter is filtered. The organic phase is separated off, active carbon is added to it and it is stirred for 1 hour at room temperature. After filtering and evaporating down, 23 g of 6-diethylamino-3-methylindole is obtained in the form of a brown oil.

reactant | N,N-diethyl-N'-acetonyl-m-phenylenediamine | 46.5 g | C(C)N(C1=CC(=CC=C1)NCC(=O)C)CC | C13H20N2O
reactant | hydrochloric acid | 1N, 250 ml | Cl | ClH
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
catalyst | zinc chloride | 46.5 g | [Cl-].[Zn+2].[Cl-]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-diethylamino-3-methylindole | 23 g | C(C)N(C1=CC=C2C(=CNC2=C1)C)CC | C13H18N2
